US05232940
Tertiary butyl nitrite (6.6 ml) was added at room temperature to a solution of 5-amino-3-cyano-1-(2,6-dichloro-4-trifluoromethylphenyl)-4-nitropyrazole (3.7 g), bromoform (13.3 ml) and acetonitrile (10 ml). The mixture was heated at 50°-60° C. for 4.5 hours and the solvents were evaporated to give an orange oil. This was purified by medium pressure liquid chromatography (eluant hexane/ether 2:1) to give 5-bromo-3-cyano-1-(2,6-dichloro-4-trifluoromethylphenyl)-4-nitropyrazole (3.4 g) as a solid, m.p. 147°-150° C.

reactant | Tertiary butyl nitrite | 6.6 ml | N(=O)OC(C)(C)C | C4H9NO2
reactant | 5-amino-3-cyano-1-(2,6-dichloro-4-trifluoromethylphenyl)-4-nitropyrazole | 3.7 g | NC1=C(C(=NN1C1=C(C=C(C=C1Cl)C(F)(F)F)Cl)C#N)[N+](=O)[O-] | C11H4Cl2F3N5O2
reactant | bromoform | 13.3 ml | C(Br)(Br)Br | CHBr3
solvent | acetonitrile | 10 ml | C(C)#N | C2H3N
product | 5-bromo-3-cyano-1-(2,6-dichloro-4-trifluoromethylphenyl)-4-nitropyrazole | 3.4 g | BrC1=C(C(=NN1C1=C(C=C(C=C1Cl)C(F)(F)F)Cl)C#N)[N+](=O)[O-] | C11H2BrCl2F3N4O2
